US09371321B2
Preparation 3: tert-Butyl (S)-4-(5-(1-aminoethyl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-yl)-1,4-diazepane-1-carboxylate
To a 50 mL pear flask were added (S)-1-(6-bromo-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine (153 mg, 0.602 mmol) and tert-butyl 1,4-diazepane-1-carboxylate (241 mg, 1.20 mmol). After evacuating the flask and flushing it with nitrogen, the flask was charged with dioxane (1.6 mL) and potassium 2-methylpropan-2-olate (1.0 M in THF) (1.32 mL, 1.32 mmol). The mixture was then heated to 90° C. for 1 hour. After cooling, the mixture was worked up with saturated NaHCO3 and EtOAc. The combined organic layers were dried over MgSO4, filtered, and concentrated in vacuo. The crude product was purified by preparative HPLC (acid mode, 25-50% ACN/water gradient). The product-containing fractions were combined, neutralized with saturated NaHCO3, concentrated in vacuo to remove ACN, and then extracted with EtOAc. The organic layers were combined, dried over MgSO4, filtered, and concentrated in vacuo to give the title compound (76 mg, 34%). ESI-MS m/z [M+H]+ calc'd for C20H31N5O2, 374. found 374.

reactant | (S)-1-(6-bromo-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine | 0.602 mmol, 153 mg | BrC=1C=C2C(=NC1[C@H](C)N)C=CN2C | C10H12BrN3
reactant | tert-butyl 1,4-diazepane-1-carboxylate | 1.20 mmol, 241 mg | N1(CCNCCC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | potassium 2-methylpropan-2-olate | 1.32 mmol, 1.0 M, 1.32 mL | CC(C)(C)[O-].[K+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | dioxane | 1.6 mL | O1CCOCC1 | C4H8O2
product | tert-Butyl (S)-4-(5-(1-aminoethyl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-yl)-1,4-diazepane-1-carboxylate | 76 mg, 34% | N[C@@H](C)C1=C(C=C2C(=N1)C=CN2C)N2CCN(CCC2)C(=O)OC(C)(C)C | C20H31N5O2
